US08334301B2
{5-[(methylamino)methyl]-3-phenyl-2-thienyl}(phenyl)methanone hydrochloride
tert-Butyl [(5-benzoyl-4-phenyl-2-thienyl)methyl]methylcarbamate (236 mg) was dissolved in ethyl acetate (3 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (3 mL) was added at room temperature. After stirring for 1 hr, the reaction mixture was concentrated under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate and ethanol to give the title compound as colorless crystals (yield 114 mg, yield 57%).

reactant | tert-Butyl [(5-benzoyl-4-phenyl-2-thienyl)methyl]methylcarbamate | 236 mg | C(C1=CC=CC=C1)(=O)C1=C(C=C(S1)CN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C24H25NO3S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 3 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | {5-[(methylamino)methyl]-3-phenyl-2-thienyl}(phenyl)methanone hydrochloride | yield 114 mg, yield 57% | Cl.CNCC1=CC(=C(S1)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H17NOS.ClH/c1-20-13-16-12-17(14-8-4-2-5-9-14)19(22-16)18(21)15-10-6-3-7-11-15;/h2-12,20H,13H2,1H3;1H
